US05075435
A solution of (3S,4S)-4-(1-ethoxycarbonylethyl)-3-(1-(R)-t-butyldimethylsilyloxyethyl)-1-t-butyldimethylsilyl-2-azetidinone (46.3 g) in dry tetrahydrofuran (60 ml) was treated with a 1 M tetrahydrofuran solution of tetra-n-butylammonium fluoride (96 ml) at room temperature for 45 minutes. The reaction mixture was diluted with ethyl acetate (250 ml) and washed with brine (60 ml). The washing was extracted with ethyl acetate (50 ml). The extract and the ethyl acetate layer were combined together, washed with brine and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave and oily residue, which was purified by silica gel chromatography to yield (3S,4S)-4-(1-ethoxycarbonylethyl)-3-(1-(R)-t-butyl-dimethylsilyloxyethyl)-2-azetidinone.

reactant | (3S,4S)-4-(1-ethoxycarbonylethyl)-3-(1-(R)-t-butyldimethylsilyloxyethyl)-1-t-butyldimethylsilyl-2-azetidinone | 46.3 g | C(C)OC(=O)C(C)[C@@H]1[C@H](C(N1[Si](C)(C)C(C)(C)C)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C22H45NO4Si2
reactant | tetra-n-butylammonium fluoride | 96 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1 M | O1CCCC1 | C4H8O
product | (3S,4S)-4-(1-ethoxycarbonylethyl)-3-(1-(R)-t-butyl-dimethylsilyloxyethyl)-2-azetidinone | C(C)OC(=O)C(C)[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
